US08017611B2
PdCl2dppf (0.201 g), potassium acetate (1.514 g) and 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (1.39 g) were added over a period of 10 minutes to a stirred solution of tert-butyl N-[5-bromo-3-(7-methoxy-1,3-benzoxazol-2-yl)-2-pyridyl]-N-tert-butoxycarbonyl-carbamate (2.59 g) dissolved in dioxane (30 ml) that had been degassed. Under argon, the resulting mixture was stirred at 80° C. for 3 hours. The mixture was filtered and the filtrate was evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with 20 to 80% ethyl acetate in petroleum ether. The solvent was evaporated to dryness to afford tert-butyl N-tert-butoxycarbonyl-N-[3-(7-methoxy-1,3-benzoxazol-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridyl]carbamate (1.89 g) as a solid. NMR Spectrum: (CDCl3) 1.30 (s, 18H), 1.39 (s, 12H), 4.08 (s, 3H), 6.90 (d, 1H), 7.28 (dd, 1H), 7.40 (d, 1H), 8.96 (d, 1H), 9.02 (d, 1H); Mass spectrum: M(−Boc-pinacol)+H+ 386.

reactant | potassium acetate | 1.514 g | C(C)(=O)[O-].[K+]
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 1.39 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | tert-butyl N-[5-bromo-3-(7-methoxy-1,3-benzoxazol-2-yl)-2-pyridyl]-N-tert-butoxycarbonyl-carbamate | 2.59 g | BrC=1C=C(C(=NC1)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C)C=1OC2=C(N1)C=CC=C2OC | C23H26BrN3O6
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | tert-butyl N-tert-butoxycarbonyl-N-[3-(7-methoxy-1,3-benzoxazol-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridyl]carbamate | 1.89 g | C(C)(C)(C)OC(=O)N(C(OC(C)(C)C)=O)C1=NC=C(C=C1C=1OC2=C(N1)C=CC=C2OC)B2OC(C(O2)(C)C)(C)C | C29H38BN3O8
